Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Codeine / Azithromycin / 
Tequin / Keflex / Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o man with long hx of GERD who presented to the ED after 
experiencing intermittant chest pain associated with dizziness 
over the preceding two days.  He was unsure if this was GERD 
associted pain or not, and felt recent initiation of SSRI may 
have contributed, but symptoms persisted, so he called ___ at 
the recommendation of an RN from his PCP's office.   He was 
given ASA (4 baby asa) by EMS and he reported immediate relief 
of his chest pain.  

In the ED, found to have VSS.  ECG with ? old inferior infarct.  
No ischemic changes.  Trop flat times two.  Had planned obs and 
stress test, but not able to do on ___, so admitted. 

ROS: at current: denies dizziness, sob, nausea, cp.  Denies 
recent blood in stool or tarry stools.  All other systems 
reviewed and negative. 
 
Past Medical History:
HTN
GERD
HCL
 
Social History:
___
Family History:
Cancer - lung and liver.  No hx. CAD in parents or siblings.
 
Physical Exam:
AF and VSS. BP 156/98.  
NAD
Alert, oriented
Independently ambulatory
No JVD
RRR no MRG
CTA througout
Soft, nt, nd, bs present
No edema
Distal pulses 2+
No rash
 
Pertinent Results:
___ 03:00PM   PLT COUNT-197
___ 03:00PM   NEUTS-64.3 ___ MONOS-9.4 EOS-1.6 
BASOS-0.5
___ 03:00PM   WBC-6.7 RBC-4.69 HGB-14.0 HCT-39.4* MCV-84 
MCH-30.0 MCHC-35.6* RDW-13.6
___ 03:00PM   D-DIMER-<150
___ 03:00PM   cTropnT-<0.01
___ 03:00PM   estGFR-Using this
___ 03:00PM   GLUCOSE-92 UREA N-20 CREAT-0.9 SODIUM-142 
POTASSIUM-3.5 CHLORIDE-103 TOTAL CO2-26 ANION GAP-17
___ 09:15PM   cTropnT-<0.01

ECG: NSR.  S1Q3T3 (old).  No acute ischemic changes.

___ ___ M  ___  ___ 
 
Cardiology Report Stress Study Date of ___   
 
  
EXERCISE RESULTS 

 
*** Not Signed Out *** 
RESTING DATA 
EKG:  SINUS, ERWP, NSSTTW   
HEART RATE:  75 BLOOD PRESSURE:  144/70 
  
PROTOCOL GERVINO - TREADMILL 
STAGE TIME SPEED ELEVATION HEART BLOOD RPP 
  (MIN) (MPH) (%) RATE PRESSURE   
1 ___ 1.0 5 82 148/74 ___ 
2 ___ 1.6 6 79 150/70 ___ 
3 ___ 2.2 7 86 156/60 ___ 2.8 8 94 156/60 ___ 
  
TOTAL EXERCISE TIME:  12 % MAX HRT RATE ACHIEVED:  66 
 
SYMPTOMS: NONE   
ST DEPRESSION: NONE 
 
  
INTERPRETATION: ___ yo man with h/o HTN and ECG with questionable 
old 
IMI was referred to evaluate an atypical chest discomfort and 
lightheadedness. The patient completed 12 minutes of a Gervino 
protocol 
representing an average exercise tolerance for his age; ~ 6.2 
METS. The 
exercise test was stopped at the patient's request secondary to 
fatigue. 
No chest, back, neck or arm discomforts were reported. No 
significant ST 
segment changes were noted. The rhythm was sinus with rare 
isolated APDs 
and VPDs noted. In the absence of beta blocker therapy, the 
heart rate 
response to exercise was blunted. In addition, a blunted blood 
pressure 
response to exercise was noted. 
  
IMPRESSION: Average exercise tolerance. No anginal symptoms or 
ischemic 
ST segment changes. Blunted hemodynamic response to exercise 
(see 
above). 
 

 
Brief Hospital Course:
Impression:

Chest pain, intermittant, associated with lightheadeness, not 
associated with activity, concerning for anginal pain; could be 
due to gastritis or a side effect of new SSRI administration in 
the past 10 days.  Fact that pt. reports that sysptoms 
alleviated immediatley by the administration of asa by EMS 
personnel unusual - no EMS documentation in pt. record.  I 
remain concerned that this was more likely ntg administration 
concurrently that may have resolved pain. 

Stable and chronic issues include: HTN, HCL.

Hospital course: 

Troponin T negative times three.  Exercise stress test (non 
imaging) was performed, result above.  Pt. had no symptoms of 
chest pain or dizziness during this episode.  On further review, 
pt. reported that chest pain and dizziness are most notable when 
taking celexa - especially if he takes it on an empty stomach.  
He also states that his chest pain is most consistent with his 
acid reflux - and that this and dizziness are alleviated by 
eating.  

He endorses lonliness.  I have suggested that he continue to 
take the SSRI, as the side effects of dizziness and GI upset 
often resolve with continued administration of this medication.  
He agrees with this. 

 
Medications on Admission:
 citalopram 
10 mg Tablet 
1 Tablet(s) by mouth once a day  ___
New ___,
 ___ 30 Tablet 3 (Three) ___ Care)  
  gemfibrozil 
600 mg Tablet 
1 Tablet(s) by mouth once a day (Prescribed by Other Provider; 
Dose adjustment - no new Rx)  ___
Recorded Only ___,
 ___        
  hydrochlorothiazide 
12.5 mg Capsule 
1 Capsule(s) by mouth daily  ___
Renewed ___,
 ___ 90 Capsule 3 (Three) ___ Care)  
  omeprazole 
40 mg Capsule, Delayed Release(E.C.) 
1 Capsule(s) by mouth once a day (Prescribed by Other Provider: 
___  ___
Recorded Only ___,
 ___        
  ranitidine HCl 
150 mg Tablet 
1 Tablet(s) by mouth at bedtime (Prescribed by Other Provider)  
___
Recorded Only ___,
 ___        
  terazosin 
2 mg Capsule 
1 Capsule(s) by mouth at bedtime (Prescribed by Other Provider: 
___  ___
Recorded Only ___,
 ___        
  * OTCs *             
  acetaminophen [Tylenol Extra Strength] 
500 mg Tablet 
2 Tablet(s) by mouth q4hr as needed for pain (___)  ___
Recorded Only ___,
 ___        
  carboxymethylcellulose sodium [Lubricant Eye Drops] 
0.5 % Drops 
1 gtt ___ four times a day as needed for dry eyes (Prescribed by 
Other Provider: ___  ___
Recorded Only ___,
 ___        
  cholecalciferol (vitamin D3) 
1,000 unit Tablet 
1 Tablet(s) by mouth once a day (___)  ___
Recorded Only ___,
 ___        
  glucosamine-chondroitin 
500 mg-400 mg Capsule 
3 Capsule(s) by mouth once a day (___)  ___
Recorded Only ___,
 ___        
  guar gum [Benefiber (guar gum)] 
1 gram Tablet 
1 Tablet(s) by mouth once a day (___)  ___
Recorded Only ___,
 ___        
  multivitamin-minerals-lutein [Centrum Silver] 
Tablet 
1 Tablet(s) by mouth once a day (___)  ___
Recorded Only ___,
 ___        
  saw ___ 
500 mg Capsule 
1 Capsule(s) by mouth once a day (___)  ___
Recorded Only ___,
 ___        
  ___ by Drug Class            

 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
2. gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. terazosin 1 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
7. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
8. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
9. cholecalciferol (vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Benefiber (guar gum)  Oral
12. saw ___  Oral
13. Centrum Silver  Oral
14. hydrocortisone 1 % Cream Sig: One (1) application Topical 
twice a day for 1 weeks: to rash.
Disp:*1 tube* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acid reflux
dizziness (occasionally) likely related to side effect of celexa

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
See below
 
Followup Instructions:
___